US03960886
4'-[2-(1-Piperidyl)ethoxy]-N-phenylbenzanilide [IA; R is C6H5, Ar is -C6H4 -(p), Y is CH2CH2, N=Z is N(CH2)5, n is O, Ar' is C6H5 ] was prepared from 11.5 g. of 4'-hydroxy-N-phenylbenzanilide and 2-(1-piperidyl)ethyl chloride in the presence of sodium methoxide according to the procedure of Example 1. The product was recrystallized from benzene-hexane to give 4'-]2-(1-piperidyl)ethoxy]-N-phenylbenzanilide, colorless solid, m.p. 78.5°-82.5°C.; cyclohexanesulfamic acid salt form, m.p. 151.5°-157.5°C.

reactant | 4'-[2-(1-Piperidyl)ethoxy]-N-phenylbenzanilide | N1(CCCCC1)CCOC1=CC=C(N(C(C2=CC=CC=C2)=O)C2=CC=CC=C2)C=C1 | C26H28N2O2
reactant | 4'-hydroxy-N-phenylbenzanilide | OC1=CC=C(N(C(C2=CC=CC=C2)=O)C2=CC=CC=C2)C=C1 | C19H15NO2
reactant | 2-(1-piperidyl)ethyl chloride | N1(CCCCC1)CCCl | C7H14ClN
reactant | sodium methoxide | C[O-].[Na+]
product | N-phenylbenzanilide | C1(=CC=CC=C1)N(C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C19H15NO
